US08877782B2
N-tert-Butyl-6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinamide
As described for example 15, 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid (100 mg, 0.32 mmol) was converted, using tert-butylamine instead of 3-methoxypropylamine, to the title compound (89 mg, 76%) which was obtained as an off white solid. MS: m/e=366.3 [M+H]′.

reactant | 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid | 0.32 mmol, 100 mg | CC1=C(C(=NO1)C1=CC=CC=C1)COC1=NC=C(C(=O)O)C=C1 | C17H14N2O4
reactant | tert-butylamine | C(C)(C)(C)N | C4H11N
product | N-tert-Butyl-6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinamide | 89 mg, 76% | C(C)(C)(C)NC(C1=CN=C(C=C1)OCC=1C(=NOC1C)C1=CC=CC=C1)=O | C21H23N3O3
